US07521545B2
1-(4-Nitrophenyl)-2-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]diazene
4-Nitroaniline (10.4 g) was dissolved in 2N hydrochloric acid (150 mL) by heating, and then cooled to 0 to 5° C. To the solution was added a solution of sodium nitrite (5.2 g) in water (15 mL), and the mixture was stirred for 15 minutes. To the mixture were added 2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran (14.0 g) and acetonitrile (150 mL). The reaction mixture was stirred at 65 to 70° C. for one hour under a nitrogen atmosphere, and then allowed to cool to room temperature. Precipitated crystals were collected by filtration, and washed with 1N hydrochloric acid and water. The crystals were dried under reduced pressure to obtain the title compound as a brown solid (21.0 g, yield 100%).

reactant | 4-Nitroaniline | 10.4 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | sodium nitrite | 5.2 g | N(=O)[O-].[Na+]
reactant | 2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran | 14.0 g | CC1(OC2=C(C1C1=CC=C(C=C1)C)C(=CC(=C2C)C)C)C | C20H24O
reactant | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | hydrochloric acid | 2N, 150 mL | Cl | ClH
solvent | water | 15 mL | O | H2O
product | 1-(4-Nitrophenyl)-2-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]diazene | 21.0 g, yield 100% | [N+](=O)([O-])C1=CC=C(C=C1)N=NC=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=C(C=C2)C)C1C)C)C | C26H27N3O3
